US09315491B2
(2-Chloro-5-ethoxy-6-morpholin-4-yl-pyrimidine-4-carbaldehyde
To a suspension of Dess-Martin periodinane in CH2Cl2 (15%, 11.2 ml, 1.1 eq) was added to a stirred solution of (2-chloro-5-ethoxy-6-morpholin-4-yl-pyrimidin-4-yl)-methanol (1.13 g, 1 eq.) in CH2Cl2 (20 ml) and the mixture was reacted at r.t. for 2 h. The mixture was quenched with NaHCO3(sat), extracted with EA, and washed with brine. The crude was purified by chromatography to give a product (1.08 g, 80.8%).

reactant | Dess-Martin periodinane | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | (2-chloro-5-ethoxy-6-morpholin-4-yl-pyrimidin-4-yl)-methanol | 1.13 g, 1 eq. | ClC1=NC(=C(C(=N1)CO)OCC)N1CCOCC1 | C11H16ClN3O3
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 11.2 ml, 1.1 eq | C(Cl)Cl | CH2Cl2
product | 2-Chloro-5-ethoxy-6-morpholin-4-yl-pyrimidine-4-carbaldehyde | 1.08 g, 80.8% | ClC1=NC(=C(C(=N1)C=O)OCC)N1CCOCC1 | C11H14ClN3O3
